US03968138
N3,N3 -di-n-propyl-2,4-dinitro-6-methyl-1,3-phenylenediamine
This compound was prepared in a similar manner by reaction of N,N-di-n-propyl-3-chloro-2,6-dinitro-4-methylaniline with ammonia. The crystalline product melts at 126°-127°C.

reactant | N,N-di-n-propyl-3-chloro-2,6-dinitro-4-methylaniline | C(CC)N(C1=C(C(=C(C=C1[N+](=O)[O-])C)Cl)[N+](=O)[O-])CCC | C13H18ClN3O4
reactant | ammonia | N | H3N
product | di-n-propyl-2,4-dinitro-6-methyl-1,3-phenylenediamine | C(CC)N(C=1C(=C(C(=CC1[N+](=O)[O-])C)N)[N+](=O)[O-])CCC | C13H20N4O4
